US04957928
At room temperature and while stirring, a solution of 7.22 g (35 mmol) of 3-methoxycarbonylmethylchroman in 50 ml of absolute tetrahydrofuran is added dropwise within a period of 30 minutes to a suspension of 1.33 g (35 mmol) of lithium aluminium hydride in 50 ml of absolute diethyl ether. Stirring is continued at room temperature for a further 16 hours and then the whole is carefully decomposed with 1.33 ml of water, 1.33 ml of sodium hydroxide solution (15% strength) and 4.0 ml of water. The precipitate formed is filtered off with suction and the filtrate is concentrated by evaporation in vacuo. The oily residue is dissolved in diethyl ether. The solution is washed with water, dried over sodium sulphate and concentrated by evaporation in vacuo. 6.23 g (100%) of 3-(2-hydroxyethyl)chroman are obtained in the form of a yellow oil.

reactant | 3-methoxycarbonylmethylchroman | 35 mmol, 7.22 g | COC(=O)CC1COC2=CC=CC=C2C1 | C12H14O3
reactant | lithium aluminium hydride | 35 mmol, 1.33 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.33 ml | O | H2O
reactant | sodium hydroxide | 1.33 ml | [OH-].[Na+]
reactant | water | 4.0 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-(2-hydroxyethyl)chroman | 6.23 g, 100% | OCCC1COC2=CC=CC=C2C1 | C11H14O2
